US05232948
To a solution of ethyl 3,5-dibenzyloxyphenylacetate (4.1 g, 10.9 mmol) in 50 ml of EtOH is added 21 ml (6 eq) of 1N NaOH. The reaction is stirred at room temperature for 2 hours at which time it is extracted with Et2O and H2O. The H2O layer is acidified to pH~1 using 1N HCl and extracted with Et2O. The organics are dried (MgSO4) and concentrated in vacuo to obtain 3,5-dibenzyloxyphenylacetic acid which is confirmed by NMR and used directly in the next step.

reactant | ethyl 3,5-dibenzyloxyphenylacetate | 10.9 mmol, 4.1 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)CC(=O)OCC | C24H24O4
reactant | NaOH | 1N, 21 ml, 6 eq | [OH-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 3,5-dibenzyloxyphenylacetic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)CC(=O)O | C22H20O4
